US07169780B2
N-(4-Fluorobenzyl)-5-hydroxy-1-methyl-2-(4-methylphenyl)-6-oxo-1,6-dihydropyrimidine-4-carboxamide
To a stirred solution of methyl 5-[(2,2-dimethylpropanoyl)oxy]-1-methyl-2-(4-methylphenyl)-6-oxo-1,6-dihydropyrimidine-4-carboxylate (prepared from 4-methylbenzonitrile by procedures similar to those set forth in Examples 2 or 3) in DMF 3 equivalents of 4-fluorobenzylamine were added and mixture was stirred at 90° C. for 2 h. The title product precipitated from the cooled reaction mixture after the addition of 2 N HCl, and was collected by filtration and washed with diethyl ether.

reactant | methyl 5-[(2,2-dimethylpropanoyl)oxy]-1-methyl-2-(4-methylphenyl)-6-oxo-1,6-dihydropyrimidine-4-carboxylate | CC(C(=O)OC1=C(N=C(N(C1=O)C)C1=CC=C(C=C1)C)C(=O)OC)(C)C | C19H22N2O5
reactant | 4-methylbenzonitrile | CC1=CC=C(C#N)C=C1 | C8H7N
reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | DMF 3 | CN(C)CC1=CC(=C(C(=C1)CN(C)C)O)CN(C)C | C15H27N3O
product | N-(4-Fluorobenzyl)-5-hydroxy-1-methyl-2-(4-methylphenyl)-6-oxo-1,6-dihydropyrimidine-4-carboxamide | FC1=CC=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=CC=C(C=C2)C)C=C1 | C20H18FN3O3
